US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 4-fluoro-3-(3,5-difluoropyridin-2-yl)phenylboronic acid (71 mg, 0.28 mmol) as described in Example 7 part g), affording 5-[3-(3,5-difluoropyridin-2-yl)-4-fluorophenyl]-2-trifluoromethyl[1,8]-naphthyridine (59 mg, 68%). δH (360 MHz, CDCl3) 7.36-7.44 (2H, m), 7.55-7.62 (2H, m), 7.75 (1H, dd, J 2.3 and 6.5), 7.85 (1H, d, J 8.8), 8.48 (1H, d, J 2.1), 8.57 (1H, d, J 8.8), 9.28 (1H, d, J 4.2). m/z (ES+) 406 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 4-fluoro-3-(3,5-difluoropyridin-2-yl)phenylboronic acid | 0.28 mmol, 71 mg | FC1=C(C=C(C=C1)B(O)O)C1=NC=C(C=C1F)F | C11H7BF3NO2
product | 5-[3-(3,5-difluoropyridin-2-yl)-4-fluorophenyl]-2-trifluoromethyl[1,8]-naphthyridine | 59 mg, 68% | FC=1C(=NC=C(C1)F)C=1C=C(C=CC1F)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C20H9F6N3
